US08530470B2
TBTU (102 mg, 0.32 mmol) was added to a stirred solution of 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (105 mg, 0.21 mmol), 4-methylmorpholine (0.070 mL, 0.63 mmol) and 2-(methylamino)ethanol (0.022 mL, 0.28 mmol) dissolved in NMP (1.5 mL). The resulting solution was stirred at room temperature for 16 h then purified by preparative HPLC. The fractions were evaporated to dryness and triturated in diethyl ether to afford a solid. This material was collected by filtration, washed with diethyl ether and dried under vacuum at 50° C. to afford 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-N-(2-hydroxyethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (77 mg, 71%) as a white solid.

reactant | TBTU | 0.32 mmol, 102 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 0.21 mmol, 105 mg | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C24H22F2N2O5
reactant | 4-methylmorpholine | 0.63 mmol, 0.070 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(methylamino)ethanol | 0.28 mmol, 0.022 mL | CNCCO | C3H9NO
solvent | NMP | 1.5 mL | CN1CCCC1=O | C5H9NO
product | 8-(1-(3,5-difluorophenyl)pyrrolidin-2-yl)-N-(2-hydroxyethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 77 mg, 71% | FC=1C=C(C=C(C1)F)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)CCO | C27H29F2N3O5
